US04112086
Carbon disulfide (0.88 ml, 1.11 g) was added dropwise to a stirred solution of 2.45 g (14.6 mmol) of diethyl aminomethylphosphonate and 0.82 g (14.6 mmol) of potassium hydroxide in 25 ml of ethanol. During addition the temperature of the reaction mixture rose from 26° to 33°. A second portion of 0.88 ml of carbon disulfide was added and the mixture was stirred at 50° for 1 hour. The mixture was cooled to ambient temperature, 2.08 g. (14.6 mmol) of methyl iodide was added dropwise and the resulting mixture was stirred for 1.5 hours. The mixture was evaporated to dryness, the residue was dissolved in water and the aqueous solution was extracted twice with ethyl acetate. The extracts were combined, dried (MgSO4) and evaporated to dryness to give methyl 1-diethoxyphosphinylmethyldithiocarbamate.

reactant | Carbon disulfide | 0.88 ml, 1.11 g | C(=S)=S | CS2
reactant | diethyl aminomethylphosphonate | 14.6 mmol, 2.45 g | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | potassium hydroxide | 14.6 mmol, 0.82 g | [OH-].[K+]
reactant | carbon disulfide | 0.88 ml | C(=S)=S | CS2
reactant | methyl iodide | 14.6 mmol | CI | CH3I
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | methyl 1-diethoxyphosphinylmethyldithiocarbamate | C(C)OP(=O)(CNC(SC)=S)OCC | C7H16NO3PS2
